US04792628
Into a solution of 2 g of 7-hydroxy-4-methyl-1-indanone in 10 ml of dichloroethane was added 2.27 g of 1-piperidine sulfonyl chloride. Then 10 g of anhydrous aluminum chloride was gradually added to the mixture and stirred, and the reaction mixture was refluxed by heating for 8 hours. The reaction mixture was extracted with 200 ml of chloroform, washed with water, then the chloroform was removed by evaporation under a reduced pressure. The residue was purified by means of a silica gel column chromatography (eluent: chloroform), and recrystallized from ethanol to obtain 1.24 g of 7-hydroxy-4-methyl-6-(1-piperidinesulfonyl)-1-indanone.

reactant | 7-hydroxy-4-methyl-1-indanone | 2 g | OC=1C=CC(=C2CCC(C12)=O)C | C10H10O2
reactant | 1-piperidine sulfonyl chloride | 2.27 g | N1(CCCCC1)S(=O)(=O)Cl | C5H10ClNO2S
reactant | aluminum chloride | 10 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 7-hydroxy-4-methyl-6-(1-piperidinesulfonyl)-1-indanone | 1.24 g | OC=1C(=CC(=C2CCC(C12)=O)C)S(=O)(=O)N1CCCCC1 | C15H19NO4S
